US06835732B2
5-Methyl-thiophene-2-carboxylic acid (4-methoxy-7-pyridin-4-yl-benzothiazol-2-yl)-amide is synthesized from 5-methyl-thiophene-2-carboxylic acid (7-bromo-4-methoxy-benzothiazol-2-yl)-amide (192 mg, 0.50 mmol) and 4-pyridylboronic acid (92 mg, 0.75 mmol) using the general procedure A as a white solid in 6% yield. MS: m/e=381 (M+).

reactant | 5-methyl-thiophene-2-carboxylic acid (7-bromo-4-methoxy-benzothiazol-2-yl)-amide | 0.50 mmol, 192 mg | BrC1=CC=C(C=2N=C(SC21)NC(=O)C=2SC(=CC2)C)OC | C14H11BrN2O2S2
reactant | 4-pyridylboronic acid | 0.75 mmol, 92 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | 5-Methyl-thiophene-2-carboxylic acid (4-methoxy-7-pyridin-4-yl-benzothiazol-2-yl)-amide | 6% yield | COC1=CC=C(C2=C1N=C(S2)NC(=O)C=2SC(=CC2)C)C2=CC=NC=C2 | C19H15N3O2S2
